US07994171B2
5-(3-fluoro-2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide.
To a mixture of 3-fluoro-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methyl benzoic acid (0.2 g, 0.47 mmol, 1 eq), 1-(pyridin-2-yl)cyclopropanamine (0.075 g, 5.5 mmol, 1.2 eq) (60% purity), HOBT (0.81 g, 0.015 mmol, 1.7 eq), EDC.HCl (0.16 g, 00.83 mmol, 1.8 eq) in DCM at ambient temperature and under nitrogen was added Diisopropylethylamine (0.30 g, 2.3 mmol, 5.0 eq). The clear mixture was stirred at ambient temperature for 12 h. The mixture was concentrated, diluted with water and extracted with EtOAc. The organic layer is further washed with water, dried over sodium sulphate and concentrated. The product obtained was further purified by column chromatography (neutral alumina) using 0.5% Methanol/DCM and further purification was done using preparative HPLC. Yield: 0.1 g (50%). 1H NMR (400 MHz, CDCl3): δ 1.39-1.42 (m, 2H), 1.67-1.70 (m, 2H), 2.21-2.22 (d, 3H, J=2.24 Hz), 2.9-3.0 (d, 3H, J=4.88 Hz), 5.98-5.99 (s, 1H), 7.06-7.09 (dd, 1H, J=5.2, 7.2 Hz), 7.18-7.36 (m, 5H), 7.53-7.62 (m, 4H), 7.76 (d, 1H, J=1.36 Hz), 7.94-7.97 (m, 2H), 8.4 (s, 1H). LCMS: (ES+) m/z=538.2 (M+H). LCMS Method: Column-Atlantis dC18 (50×4.6 mm-5 μm) A: 10 mM NH4OAc; B: acetonitrile

reactant | 3-fluoro-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methyl benzoic acid | 0.47 mmol, 0.2 g, 1 eq | FC=1C=C(C(=O)O)C=C(C1C)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1 | C24H17F2NO4
reactant | 1-(pyridin-2-yl)cyclopropanamine | 5.5 mmol, 0.075 g, 1.2 eq | N1=C(C=CC=C1)C1(CC1)N | C8H10N2
reactant | HOBT | 0.015 mmol, 0.81 g, 1.7 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.16 g, 1.8 eq | CCN=C=NCCCN(C)C.Cl
reactant | Diisopropylethylamine | 2.3 mmol, 0.30 g, 5.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(3-fluoro-2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | FC=1C(=C(C=C(C1)C(NC1(CC1)C1=NC=CC=C1)=O)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C | C32H25F2N3O3
